US04710573
1-(2-Phenylethyl)-3-(1-methyl-4-piperidinyl)-1H-indazole hydrobromide
To a stirred mixture of 0.86 g of sodium hydride (50% oil dispersion) in 50 ml of dimethylformamide was added, dropwise, 3.0 g of 3-(1-methyl-4-piperidinyl)-1H-indazole in 15 ml of hot dimethylformamide. The reaction mixture was stirred at ambient temperature for 1 hr and then a solution of 3.33 g of (2-bromoethyl)benzene in 10 ml of dimethylformamide was added dropwise. The reaction mixture was stirred for 21/2 days at ambient temperature, cooled to 0°, and water was added dropwise. The mixture was extracted with ethyl acetate, washed with water, dried over anhydrous magnesium sulfate and the solvent was removed in vacuo to yield an oil. The oil was dissolved in ether and a saturated hydrogen bromide/ether solution was added dropwise. The resultant solid was recrystallized two times from ethanol to yield 2.0 g (36%) of product, mp 163°-164° C.

reactant | sodium hydride | 0.86 g | [H-].[Na+]
reactant | 3-(1-methyl-4-piperidinyl)-1H-indazole | 3.0 g | CN1CCC(CC1)C1=NNC2=CC=CC=C12 | C13H17N3
reactant | (2-bromoethyl)benzene | 3.33 g | BrCCC1=CC=CC=C1 | C8H9Br
reactant | hydrogen bromide ether | Br.CCOCC
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | 1-(2-Phenylethyl)-3-(1-methyl-4-piperidinyl)-1H-indazole hydrobromide | 2.0 g, 36% | Br.C1(=CC=CC=C1)CCN1N=C(C2=CC=CC=C12)C1CCN(CC1)C | InChI=1S/C21H25N3.BrH/c1-23-14-12-18(13-15-23)21-19-9-5-6-10-20(19)24(22-21)16-11-17-7-3-2-4-8-17;/h2-10,18H,11-16H2,1H3;1H
